*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.90e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J391JX01
* Property : C = 3.90e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J391JX01 Port1 Port2
C01 Port1 N01 3.90e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.18e-10
R03 N02 N03 4.49e-03
C04 N03 N04 1.29e-08
R04 N03 N04 9.16e+01
L05 N04 N05 6.38e-11
R05 N04 N05 7.53e-02
C06 N05 N06 7.99e-08
L06 N05 N06 5.21e-11
R06 N05 N06 2.02e-02
C07 N06 N07 2.84e-09
L07 N06 N07 1.12e-11
R07 N06 N07 3.78e-01
C08 N07 N08 3.40e-10
L08 N07 N08 3.30e-11
R08 N07 N08 1.08e+00
C09 N08 N09 2.07e-10
L09 N08 N09 1.29e-11
R09 N08 N09 3.81e-01
C10 N09 Port2 8.69e-13
L10 N09 Port2 4.04e-10
R10 N09 Port2 1.24e+02
.ENDS GCM21A5C2J391JX01
